US08729095B2
To a dimethylsulfoxide solution (8 ml) of tert-butyl 4-(4-bromo-7-chloro-3,3-dimethyl-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate (375 mg) was added sodium hydrogen carbonate (871 mg), followed by stirring at 100° C. for 6 hours. Water was added to the reaction solution, and extracted with ethyl acetate. The collected organic layer was washed sequentially with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. After the resulting residue was dissolved in dichloromethane (14 ml), manganese dioxide (684 mg) was added and stirred for 50 minutes, and further manganese dioxide (690 mg) was added and stirred for 1 hour. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford tert-butyl 4-(7-chloro-3,3-dimethyl-2,4-dioxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate (270 mg).

reactant | dimethylsulfoxide | 8 ml | CS(=O)C | C2H6OS
reactant | tert-butyl 4-(4-bromo-7-chloro-3,3-dimethyl-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 375 mg | BrC1C(C(N(C2=CC(=CN=C12)Cl)C1CCN(CC1)C(=O)OC(C)(C)C)=O)(C)C | C20H27BrClN3O3
reactant | sodium hydrogen carbonate | 871 mg | C(O)([O-])=O.[Na+]
solvent | Water | O | H2O
product | tert-butyl 4-(7-chloro-3,3-dimethyl-2,4-dioxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 270 mg | ClC1=CN=C2C(C(C(N(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)(C)C)=O | C20H26ClN3O4
